US08258306B2
Synthesis of 2-(3-(phenyl(m-tolyl)methyl)pyrrolidin-1-yl)acetic acid
To a solution of methyl 2-(3-(phenyl(m-tolyl)methyl)pyrrolidin-1-yl)acetate (1.5 g, 4.64 mmol) in THF at 0° C. was added a solution of lithium hydroxide (0.58 g, 13.8 mmol) in water and the reaction mixture was stirred for 4 h. The reaction mixture was concentrated under reduced pressure. To the residue was added water, the pH of the aqueous layer was adjusted to 3 using dil.HCl and extracted with 30% methanol in chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford 0.72 g of the title compound.

reactant | methyl 2-(3-(phenyl(m-tolyl)methyl)pyrrolidin-1-yl)acetate | 4.64 mmol, 1.5 g | C1(=CC=CC=C1)C(C1CN(CC1)CC(=O)OC)C=1C=C(C=CC1)C | C21H25NO2
reactant | lithium hydroxide | 13.8 mmol, 0.58 g | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(3-(phenyl(m-tolyl)methyl)pyrrolidin-1-yl)acetic acid | 0.72 g | C1(=CC=CC=C1)C(C1CN(CC1)CC(=O)O)C=1C=C(C=CC1)C | C20H23NO2
